US08580841B2
Step C: Preparation of (4-Cyclopentyl-3-(trifluoromethyl)phenyl)methanol.
To a solution of methyl 4-cyclopentyl-3-(trifluoromethyl)benzoate (8.16 g, 30.0 mmol) in 1,4-dioxane (200 mL) was added lithium borohydride solution (2 M in tetrahydrofuran, 30.0 mL, 59.9 mmol). The mixture was heated under reflux for 2.5 h. The mixture was allowed to cool to room temperature and carefully quenched with 1 N aqueous HCl solution to pH 5. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, concentrated under reduced pressure and purified by silica gel column chromatograhy to give the title compound as a colorless oil (1.21 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.56-1.63 (m, 2H), 1.66-1.77 (m, 2H), 1.81-1.91 (m, 2H), 2.03-2.15 (m, 2H), 3.37 (quintet, J=8.00 Hz, 1H), 4.71 (d, J=4.29 Hz, 2H), 7.45-7.47 (m, 1H), 7.49 (d, J=1.14 Hz, 1H), 7.60 (s, 1H).

reactant | methyl 4-cyclopentyl-3-(trifluoromethyl)benzoate | 30.0 mmol, 8.16 g | C1(CCCC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H15F3O2
reactant | lithium borohydride | 59.9 mmol, 2 M, 30.0 mL | [BH4-].[Li+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | (4-Cyclopentyl-3-(trifluoromethyl)phenyl)methanol | 1.21 g | C1(CCCC1)C1=C(C=C(C=C1)CO)C(F)(F)F | C13H15F3O
